US07737166B2
7-Fluoro-2-(3-hydroxy-3-methylazetidin-1-yl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-193)
Under nitrogen atmosphere, 2-chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-cabonitrile (I-130) (216 mg, 0.753 mmol) was dissolved in N,N-dimethylsulfoamide (10 ml), then N,N-diisopropylethylamine (584 μl, 3.35 mmol) and 3-hydroxy-3-methylazetidine (132 mg, 1.51 mmol) dissolved in N,N-dimethylsulfoamide (5 ml) were added, followed by stirring under heat at 100° C. for 20 hours. After cooling, diluting with chloroform and washing with water, the organic layer was dried over anhydrous magnesium, sulfate, then the solvent was evaporated away under reduced pressure. The resulting residue was subjected to preparative silica gel column chromatography. The eluate with chloroform/methanol (10:1, v/v) gave the entitled compound (234 mg, 92%) as a white solid.

reactant | 2-chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-cabonitrile | 0.753 mmol, 216 mg | ClC=1OC=2C(N1)=C(C(=C(C2F)C2=CC=CC=C2)C)C#N | C15H8ClFN2O
reactant | N,N-diisopropylethylamine | 3.35 mmol, 584 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-hydroxy-3-methylazetidine | 1.51 mmol, 132 mg | OC1(CNC1)C | C4H9NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 7-Fluoro-2-(3-hydroxy-3-methylazetidin-1-yl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 234 mg, 92% | FC=1C(=C(C(=C2N=C(OC21)N2CC(C2)(C)O)C#N)C)C2=CC=CC=C2 | C19H16FN3O2
